US06908913B2
4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(thiophen-2-yl)carbonylimidazo[5,1-b]-thiazol-2-yl]-1-carbapen-2-em-3-carboxylate (815 mg) was prepared in the same manner as in step a) of Example 1, except that 640 mg of 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate and 923 mg of 7-(thiophen-2-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole were used as the starting compounds.

reactant | 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 640 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | 7-(thiophen-2-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 923 mg | S1C(=CC=C1)C(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC
product | 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(thiophen-2-yl)carbonylimidazo[5,1-b]-thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 815 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3SC=CC3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C27H22N4O7S2
